US07495007B2
Preparation of intermediate racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-methylsulfonyl-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione
In a manner similar to the method described in example 214e, racemic (2′S,3R,4′S)-2′-[5-bromo-2-methylsulfonyl-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′-dione reacted with PdCl2(PPh3)2, CuI, trimethylsilyl acetylene and Et3N (Aldrich, 0.62 mL) in DMF to give the title compound.

reactant | racemic (2′S,3R,4′S)-2′-[5-bromo-2-methylsulfonyl-phenyl]-6-chloro-4′-(3-chlorophenyl)spiro[3H-indole-3,3′-piperidine]-2,6′-dione | BrC=1C=CC(=C(C1)C1NC(CC(C12C(NC1=CC(=CC=C12)Cl)=O)C1=CC(=CC=C1)Cl)=O)S(=O)(=O)C | C25H19BrCl2N2O4S
reactant | trimethylsilyl acetylene | C[Si](C)(C)C#C | C5H10Si
reactant | Et3N | 0.62 mL | CCN(CC)CC | C6H15N
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | [Cu]I
product | racemic (2′R,3R,4′S)-6-chloro-4′-(3-chlorophenyl)-2′-[2-methylsulfonyl-5-(2-trimethylsilanyl-ethynyl)-phenyl]spiro[3H-indole-3,3′-piperidine]-2,6′-dione | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=CC(=CC=C1)Cl)=O)C1=C(C=CC(=C1)C#C[Si](C)(C)C)S(=O)(=O)C)=O | C30H28Cl2N2O4SSi
